US07067517B2
Methyl-phenyl-carbamic acid 5-(3,3-dimethyl-5-morpholin-4-yl-5-oxo-pentanoylamino)-pyridin-2-yl ester
Thionylchloride (237 microL, 3.27 mmol) was added to a stirred solution of 3,3-dimethyl-4-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-ylcarbamoyl]-butyric acid (0.63 g, 1.63 mmol) in dichloromethane (10 mL). After stirring for 10 minutes the solution was divided into 4 equal portions of acid chloride. To one portion was added morpholine (0.5 mL) and after stirring for 2 hours at room temperature the crude product was purified by flash column chromatography (SiO2), yielding the title compound (117 mg, 63% yield).

reactant | Thionylchloride | 3.27 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | 3,3-dimethyl-4-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-ylcarbamoyl]-butyric acid | 1.63 mmol, 0.63 g | CC(CC(=O)O)(CC(NC=1C=NC(=CC1)OC(N(C1=CC=CC=C1)C)=O)=O)C | C20H23N3O5
reactant | morpholine | 0.5 mL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl-phenyl-carbamic acid 5-(3,3-dimethyl-5-morpholin-4-yl-5-oxo-pentanoylamino)-pyridin-2-yl ester | 117 mg, 63% yield | CC(CC(=O)NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O)(CC(=O)N1CCOCC1)C | C24H30N4O5
